US03932390
Tris(hydroxymethyl)phosphine (3.9 g, 80%, 0.025 moles) was dissolved in formalin (20 ml, 40%, 0.267 moles) and water (20 ml). Sulfamide (2.4 g, 0.025 mole) and hexamethylenetetramine (3.5 g, 0.025 mole) were added together and dissolved in the solution at room temperature. The solution heated up slightly and over the next twenty-four hours a precipitate formed. Filtration, dissolution of the solid in 4 successive 30 ml acetone washes and evaporation of the acetone yielded 3.42 g of crude 2-thia-1,3,5-triaza-7-phosphaadamantane 2,2-dioxide (66% yield) [mp 274°-5° (water)].

reactant | Tris(hydroxymethyl)phosphine | 0.025 moles, 3.9 g | OCP(CO)CO | C3H9O3P
reactant | formalin | 0.267 moles, 20 ml | C=O | CH2O
reactant | Sulfamide | 0.025 mole, 2.4 g | S(=O)(=O)(N)N | H4N2O2S
reactant | hexamethylenetetramine | 0.025 mole, 3.5 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | water | 20 ml | O | H2O
product | 2-thia-1,3,5-triaza-7-phosphaadamantane 2,2-dioxide | 3.42 g, 66% yield | N12S(N3CN(CP(C1)C3)C2)(=O)=O | C5H10N3O2PS
